US09421205B2
(d) tert-Butyl 4-(4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)benzyl)piperazine-1-carboxylate (I95)
tert-Butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)benzyl)piperazine-1-carboxylate (I94) (0.500 g, 1.06 mmol) and methyl 2-(2-ethynylphenyl)acetate (I4) (0.203 g, 1.17 mmol) were dissolved in DMF (10 mL) and bis(triphenylphosphine)palladium(II) chloride (37 mg, 5 mol %) was added. The mixture was degassed with nitrogen for ten minutes, then copper(I) iodide (10 mg, 5 mol %) and triethylamine (0.738 mL, 5.30 mmol) were added. The mixture was heated under microwave irradiation (100° C./20 minutes) then concentrated. Chromatography of the residue (12 g silica cartridge, 0-100% ethyl acetate/petroleum benzine 40-60° C.) gave the title compound (I95) (192 mg, 30% yield) as a brown oil; 1H NMR (400 MHz, CDCl3) δ 8.63 (s, 1H), 7.68 (dd, J=7.6, 1.0 Hz, 1H), 7.59 (d, J=8.4 Hz, 2H), 7.50 (s, 1H), 7.42 (dd, J=7.5, 1.4 Hz, 1H), 7.38-7.29 (m, 4H), 3.95 (s, 2H), 3.70 (s, 3H), 3.50 (s, 2H), 3.45-3.40 (m, 4H), 2.43-2.35 (m, 4H), 1.45 (s, 9H). LCMS Method C: rt 5.30 min; m/z 610.1 [M+H]+, m/z 608.2 [M−H]−.

reactant | tert-Butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)benzyl)piperazine-1-carboxylate | 1.06 mmol, 0.500 g | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C21H25ClF3N5O2
reactant | methyl 2-(2-ethynylphenyl)acetate | 1.17 mmol, 0.203 g | C(#C)C1=C(C=CC=C1)CC(=O)OC | C11H10O2
reactant | triethylamine | 5.30 mmol, 0.738 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 37 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 10 mg | [Cu]I
product | tert-Butyl 4-(4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)benzyl)piperazine-1-carboxylate | 30% yield | COC(CC1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1)=O | C32H34F3N5O4
